US06326510B1
(c) 3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propargylic acid.
A solution of 4.1 g (19 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-6-ethynylnaphthalene in 75 ml of THF is introduced into a three-necked flask under a stream of nitrogen, 13.3 ml (21 mmol) of n-butyllithium (2.5M) are added dropwise at −78° C. and the mixture is allowed to return to room temperature. At −78° C., a stream of CO2 is introduced for 30 min and the mixture is allowed to return to room temperature. The reaction medium is poured into saturated ammonium chloride solution and extracted with ethyl ether, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The residue obtained is triturated with hexane, filtered off and dried. 3.5 g (73%) of the expected propargylic acid, with a melting point of 175-7° C., are collected.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-6-ethynylnaphthalene | 19 mmol, 4.1 g | CC1(C=2C=CC=CC2C(CC1C#C)(C)C)C | C16H20
reactant | n-butyllithium | 21 mmol, 2.5M, 13.3 ml | C(CCC)[Li]
reactant | CO2 | C(=O)=O | CO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propargylic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#CC(=O)O)C | C17H20O2
